US07855297B2
By the reaction and treatment in the same manner as in Example 4 using indan-1-carboxylic acid (0.24 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.37 g) as starting materials, N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)indan-1-carboxamide (0.23 g) was obtained. melting point: 83-84° C.

reactant | indan-1-carboxylic acid | 0.24 g | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.37 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)indan-1-carboxamide | 0.23 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C25H29N3O
